US05447957
c) 2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoic acid
Methyl-2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoate (13.0 g, 0.038 mol) was mixed in tetrahydrofuran and saponified with 1N sodium hydroxide. The solvent was evaporated and the residue mixed in water and acidified with 3N hydrochloric acid, bringing the pH to 4.0. The aqueous phase was extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated. The residue was flash chromatographed (silica gel, ethyl acetate/hexane/formic acid) to yield the title compound. 1H NMR (250 MHz, methanol d) δ8.00 (d, 1H), 7.10 (d, 1H), 6.88 (dd, 1H), 6.73-6.81 (m, 2H), 6.45 (d, 1H), 3.79 (s, 3H).

reactant | Methyl-2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoate | 0.038 mol, 13.0 g | COC(C1=C(C=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)N)=O | C16H14F3NO4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoic acid | NC1=C(OC2=C(C(=O)O)C=CC(=C2)OC)C=CC(=C1)C(F)(F)F | C15H12F3NO4
